US04343811
2-[3-(3-Trifluoromethyl-phenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methylpropanoic acid ethylester
The above compound was prepared from 3-(3-trifluoromethyl-phenyl)-1,2-dimethyl-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester using a procedure analogous to that of Example 10.

reactant | 3-(3-trifluoromethyl-phenyl)-1,2-dimethyl-1H-indole-5-ol | FC(C=1C=C(C=CC1)C1=C(N(C2=CC=C(C=C12)O)C)C)(F)F | C17H14F3NO
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-[3-(3-Trifluoromethyl-phenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methylpropanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)C)C)C1=CC(=CC=C1)C(F)(F)F)=O | C23H24F3NO3
